US07772226B2
(c) t-Butyl 4-(6-benzyloxymethyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate
A mixture consisting of 2.31 g of 5-benzyloxymethyl-2-chloro-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-sulfonic acid dimethylamide and 4.49 g of t-butyl piperazine-1-carboxylate was heated at 150° C. under nitrogen atmosphere for 2.5 hours. The residue was purified by silica gel column chromatography. Thus, 1.94 g of the title compound was obtained from the fraction eluted with ethyl acetate.

reactant | 5-benzyloxymethyl-2-chloro-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-sulfonic acid dimethylamide | 2.31 g | CN(S(=O)(=O)N1C(=NC2=C1C=NN(C2=O)COCC2=CC=CC=C2)Cl)C | C15H16ClN5O4S
reactant | t-butyl piperazine-1-carboxylate | 4.49 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | t-Butyl 4-(6-benzyloxymethyl-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl)piperazine-1-carboxylate | 1.94 g | C(C1=CC=CC=C1)OCN1N=CC2=C(C1=O)NC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C22H28N6O4
